US07425640B2
5-Amino-2-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-2H-pyrazole-3-carboxylic acid (2-benzyloxy-cyclohexyl)-amide
To a solution of {5-(2-Benzyloxy-cyclohexylcarbamoyl)-1-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-1H-pyrazol-3-yl}-carbamic acid tert-butyl ester (0.5 gm) in 5 ml of dichloromethane was added 1 ml of 4N hydrochloric acid/dioxane. After stirring for 6 hours the mixture was evaporated to dryness to obtain 0.41 gm of title product as the hydrochloride salt. ESI M+1=560.

reactant | {5-(2-Benzyloxy-cyclohexylcarbamoyl)-1-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-1H-pyrazol-3-yl}-carbamic acid tert-butyl ester | 0.5 gm | C(C)(C)(C)OC(NC1=NN(C(=C1)C(NC1C(CCCC1)OCC1=CC=CC=C1)=O)CC(NC1C(CCCC1)OCC1=CC=CC=C1)=O)=O | C37H49N5O6
reactant | hydrochloric acid dioxane | 4N, 1 ml | Cl.O1CCOCC1
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-Amino-2-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-2H-pyrazole-3-carboxylic acid (2-benzyloxy-cyclohexyl)-amide | 0.41 gm | C(C1=CC=CC=C1)OC1C(CCCC1)NC(=O)C=1N(N=C(C1)N)CC(NC1C(CCCC1)OCC1=CC=CC=C1)=O | C32H41N5O4
